US09403846B2
Step 7: Synthesis of (3aR,5R)-5-[(2S)-tetrahydrofuran-2-yl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C99)
N-Hydroxy-2-({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)ethanimine (C98) was converted to the product using the method described for the synthesis of 5-[(1R,2R)-2-methylcyclopropyl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C85) in Example 20. Yield: 2.6 g, 13 mmol, 54%. LCMS m/z 198.0 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 4.73 (d, J=13.1 Hz, 1H), 4.61 (dd, J=10.0, 8.0 Hz, 1H), 4.19 (dd, J=13.6, 1 Hz, 1H), 3.72-3.89 (m, 4H), 3.38-3.48 (m, 2H), 2.35 (ddd, J=12.9, 6.4, 1.3 Hz, 1H), 1.78-2.02 (m, 4H), 1.44-1.53 (m, 1H).

reactant | N-Hydroxy-2-({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)ethanimine | ON=CCO[C@H](CC=C)[C@H]1OCCC1 | C10H17NO3
reactant | 5-[(1R,2R)-2-methylcyclopropyl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C[C@H]1[C@@H](C1)C1CC2C(=NOC2)CO1 | C10H15NO2
product | (3aR,5R)-5-[(2S)-tetrahydrofuran-2-yl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | O1[C@@H](CCC1)[C@H]1C[C@@H]2C(=NOC2)CO1 | C10H15NO3
